US07569586B2
(a) 4-(2-Bromophenylcarbamoyloxy)piperidine-1-carboxylic Acid tert-Butyl Ester
2-Bromophenyl isocyanate (10.2 g, 51.5 mmol) was dissolved in N,N-dimethyl-formamide (40 mL) with 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (10.36 g, 51.5 mmol). The reaction mixture was stirred at 50° C. for 20 hours before being concentrated under reduced pressure. The crude was taken up in dichloromethane (200 mL) and washed with water (2×150 mL) and brine (1×150 mL). The organic phase was dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound as a light yellow oil (21.36 g). MS m/z: [M+H+] calcd for C17H23BrN2O4 399.08; found 399.3.

reactant | 2-Bromophenyl isocyanate | 51.5 mmol, 10.2 g | BrC1=C(C=CC=C1)N=C=O | C7H4BrNO
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 51.5 mmol, 10.36 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
solvent | N,N-dimethyl-formamide | 40 mL | CN(C=O)C | C3H7NO
product | 4-(2-Bromophenylcarbamoyloxy)piperidine-1-carboxylic Acid tert-Butyl Ester | 21.36 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC(NC1=C(C=CC=C1)Br)=O | C17H23BrN2O4
